US08207217B2
A method for the preparation of thymodepressin was disclosed in example 1 of U.S. Pat. Nos. 5,736,519, 6,103,699 and 6,410,515. However, the manufacture of thymodepressin on a large scale cannot be conducted using the experimental details of this method since a mixture of D-glutamyl-D-tryptophan and D-isoglutamyl-D-tryptophan is produced which must be separated and purified by ion exchange chromatography resulting in a very low yield (12.25%) of thymodepressin.

reactant | thymodepressin | C1=CC=C2C(=C1)C(=CN2)C[C@H](C(=O)O)NC(=O)CC[C@H](C(=O)O)N | C16H19N3O5
reactant | D-glutamyl-D-tryptophan | N[C@H](CCC(O)=O)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H19N3O5
product | D-isoglutamyl-D-tryptophan | N[C@H](CCC(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(N)=O | C16H20N4O4
